US05723483
1-Hydrazino-2-methyl-4-nitrobenzene hydrofluoride.
A mixture of 4.6 g of 1-fluoro-2-methyl-4-nitrobenzene and 3 ml of hydrazine hydrate in 45 ml of 2-propanol is heated to reflux for 2 hours. 3 ml of hydrazine hydrate are added, refluxing is continued for 2 hours and the mixture is left overnight with stirring at RT. The precipitate formed is drained. 3.53 g of the expected product are obtained, m.p.=182° C.

reactant | 1-fluoro-2-methyl-4-nitrobenzene | 4.6 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | hydrazine hydrate | 3 ml | O.NN
reactant | hydrazine hydrate | 3 ml | O.NN
solvent | 2-propanol | 45 ml | CC(C)O | C3H8O
product | 1-Hydrazino-2-methyl-4-nitrobenzene hydrofluoride | 3.53 g | F.N(N)C1=C(C=C(C=C1)[N+](=O)[O-])C | InChI=1S/C7H9N3O2.FH/c1-5-4-6(10(11)12)2-3-7(5)9-8;/h2-4,9H,8H2,1H3;1H
